US07179801B2
5-Amino-1-methyl-4-(3-phthalimidopropyl)pyrazole (1.42 g, 5 mmol) was added to concentrated hydrochloric acid (10 ml) at room temperature, and the mixture was stirred under reflux for 23 hours. To the reaction mixture was added water (50 ml), and most of insoluble materials were removed by filtration. The filtrate was washed with ethyl acetate, and the aqueous layer was concentrated in vacuo. The residue was triturated with 2-propanol and dried in vacuo to give 3-(5-amino-1-methylpyrazol-4-yl)propylamine dihydrochloride (700 mg) as a solid.

reactant | 5-Amino-1-methyl-4-(3-phthalimidopropyl)pyrazole | 5 mmol, 1.42 g | NC1=C(C=NN1C)CCCN1C(C=2C(C1=O)=CC=CC2)=O | C15H16N4O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 3-(5-amino-1-methylpyrazol-4-yl)propylamine dihydrochloride | 700 mg | Cl.Cl.NC1=C(C=NN1C)CCCN | InChI=1S/C7H14N4.2ClH/c1-11-7(9)6(5-10-11)3-2-4-8;;/h5H,2-4,8-9H2,1H3;2*1H
